US04602030
1-(1-Imidazolyl)-3-phenylsulfonylpropan-2-one
To a suspension of 50 g (0.180 mole) finely ground 1-bromo-3-phenylsulfonylpropan-2-one (the product of Example 10) in 125 ml methylene chloride cooled to about 0°-5° C., 36.8 g (0.54 mole) imidazole in 300 ml methylene chloride were added dropwise. The reaction mixture was maintained at 0°-5° C. for one hour, allowed to warm to room temperature and was stirred overnight. The methylene chloride was removed in vacuo at room temperature. The resulting oil was partitioned with 200 ml water and 200 ml ethyl acetate. The aqueous phase was extracted with ethyl acetate (four times 125 ml). The combined ethyl acetate extracts were treated with decolorizing charcoal, dried, filtered and concentrated. The precipitate which formed was triturated with methanol-isopropyl alcohol yielding 17.9 g of the above-identified product, as an off-white solid, melting point 137°-140° C.

reactant | 1-bromo-3-phenylsulfonylpropan-2-one | BrCC(CS(=O)(=O)C1=CC=CC=C1)=O | C9H9BrO3S
reactant | imidazole | 0.54 mole, 36.8 g | N1C=NC=C1 | C3H4N2
solvent | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 1-(1-Imidazolyl)-3-phenylsulfonylpropan-2-one | N1(C=NC=C1)CC(CS(=O)(=O)C1=CC=CC=C1)=O | C12H12N2O3S
